US05883106
To a stirred solution of methyl 1-(5-fluoro-3-methoxyphenyl)cyclopent-3-ene-1-carboxylate (495 mg, 2.0 mmol) in dry dichloromethane (10 ml) was added a 1.0M solution of boron tribromide in dichloromethane (10 ml, 10 mmol) at -78° C. and the mixture stirred for 1 hr at the same temperature. The reaction mixture was quenched by the addition of water (20 ml) and the resulted mixture acidified with 1.0N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was washed with brine, dried and concentrated under reduced pressure. The residue was dissolved in a mixture of methanol (5 ml) and toluene (15 ml) and a 2.0M solution of trimethylsilyldiazomethane in hexane (2 ml, 4 mmol) was added at ambient temperature with stirring. After 0.5 hr, the reaction mixture was partitioned between ethyl acetate and water, the organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo. The resultant oil was purified by column chromatography (SiO2, 150g; hexane/ethyl acetate (4/1)) to afford 407 mg (87%) of methyl 1-(5-fluoro-3-hydroxyphenyl)cyclopent-3-ene-1-carboxylate white crystals.

reactant | methyl 1-(5-fluoro-3-methoxyphenyl)cyclopent-3-ene-1-carboxylate | 2.0 mmol, 495 mg | FC=1C=C(C=C(C1)C1(CC=CC1)C(=O)OC)OC | C14H15FO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 4 mmol, 2 ml | CCCCCC | C6H14
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mmol, 10 ml | ClCCl | CH2Cl2
product | methyl 1-(5-fluoro-3-hydroxyphenyl)cyclopent-3-ene-1-carboxylate | 407 mg, 87% | FC=1C=C(C=C(C1)C1(CC=CC1)C(=O)OC)O | C13H13FO3
